US06239142B1
2-Bromo-N-(4-chlorobenzyl)-4-hydroxythieno[2,3-b]pyridine-5-carboxamide
To a solution of ethyl 4-hydroxythieno[2,3-b]pyridine-5-carboxylate (J. Heterocyclic Chem. 1977, 14, 807) (1.00 g) in CHCl3 (26 mL) is added bromine (0.23 mL) dropwise. The reaction is stirred at rt for 2 h. The reaction mixture is poured into 2N HCl (30 mL), and the aqueous layer is extracted with CHCl3 (3×30 mL). The combined organic layers are washed with H2O (100 mL), dried with MgSO4, filtered and concentrated in vacuo to yield 0.840 g (62%) of the bromide as a yellow solid. This material (0.757 g) is suspended in 10% aqueous NaOH (7 mL) and heated to reflux. The reaction is stirred at reflux for 1 h. The reaction mixture is cooled to rt, and H2O (26 mL) is added. Conc. HCl is added until a precipitate forms. The precipitate is filtered off to yield 0.597 (87%) of the acid as a brown solid. Carbonyldiimidazole (0.530 g) is added to a solution of 2-bromo-4-hydroxy-thieno-[2,3-b]pyridine-5-carboxylic acid (0.597 g) in DMF (20 mL). The reaction is heated to 60° C. and stirred for 18 h. The reaction mixture is cooled to rt, and 4-chlorobenzylamine (1.01 mL) is added. The reaction is stirred at rt for 7 h. The reaction mixture is poured into 20% aqueous HOAc (180 mL), and the resulting white solid is filtered off. This material is recrystallized from methanol then toluene to yield 2.095 g (74%) of the title compound as a white solid.

reactant | Carbonyldiimidazole | 0.530 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-bromo-4-hydroxy-thieno-[2,3-b]pyridine-5-carboxylic acid | 0.597 g | BrC1=CC=2C(=NC=C(C2O)C(=O)O)S1 | C8H4BrNO3S
reactant | 4-chlorobenzylamine | 1.01 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | HOAc | 180 mL | CC(=O)O | C2H4O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-Bromo-N-(4-chlorobenzyl)-4-hydroxythieno[2,3-b]pyridine-5-carboxamide | 2.095 g, 74% | BrC1=CC=2C(=NC=C(C2O)C(=O)NCC2=CC=C(C=C2)Cl)S1 | C15H10BrClN2O2S
